US04897444
Benzoyl-L-valyl-glycine
To a solution of L-valyl-glycine (1.0 g. 5.74 mmol) in 1 N NaOH (4.74 ml, 5.74 mmol) cooled to -5° C., 6.89 ml (689 mmol) of 1N NaOH and 968 1 (6.89 mmol) of benzoyl chloride were alternately stirred in for 30 minutes. After 90 minutes, the reaction mixture was diluted with water and washed with diethyl ether. The product was isolated by precipitation in the aqueous layer which was acidified to pH 1.5. The precipitate was then washed with diluted HCl, water, and ether. Recrystallization from water afforded 1.16 g (73% overall yield from 1): mp 190°-191° C.; Rf(D)=0.2.

reactant | L-valyl-glycine | 5.74 mmol, 1.0 g | N[C@@H](C(C)C)C(=O)NCC(=O)O | C7H14N2O3
reactant | NaOH | 5.74 mmol, 1 N, 4.74 ml | [OH-].[Na+]
reactant | NaOH | 689 mmol, 1N, 6.89 ml | [OH-].[Na+]
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | water | O | H2O
product | Benzoyl-L-valyl-glycine | C(C1=CC=CC=C1)(=O)N[C@@H](C(C)C)C(=O)NCC(=O)O | C14H18N2O4
